US04859229
using 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate in dimethylformamide with ethyl 3-amino-2-ethylcrotonate there is obtained ethyl 2-ethyl-3-[3-(4-chloro-2-fluoro-5-isopropoxyphenyl)ureido]-crotonate, m.p. 112°-114° C. and from this intermediate with sodium hydride in dimethylformamide there is obtained 5-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-methyl-2,4(1H,3H)-pyrimidinedione, m.p. 128°-130° C.

reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
reactant | ethyl 3-amino-2-ethylcrotonate | N\C(=C(/C(=O)OCC)\CC)\C | C8H15NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-ethyl-3-[3-(4-chloro-2-fluoro-5-isopropoxyphenyl)ureido]-crotonate | C(C)/C(/C(=O)OCC)=C(\C)/NC(=O)NC1=C(C=C(C(=C1)OC(C)C)Cl)F | C18H24ClFN2O4
